US08003649B2
Preparation of 3-[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]-1,2,3,6-tetrahydropyridin-4-yl]phenol
Obtained in 72% yield by an analogous procedure to Example 605, starting from 1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate and 3-hydroxyphenylboronic acid.

reactant | 1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)(F)F | C12H9F6N5O3S
reactant | 3-hydroxyphenylboronic acid | OC=1C=C(C=CC1)B(O)O | C6H7BO3
product | 3-[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]-1,2,3,6-tetrahydropyridin-4-yl]phenol | 72% yield | FC(C1=NN=C2N1N=C(C=C2)N2CCC(=CC2)C=2C=C(C=CC2)O)(F)F | C17H14F3N5O
